US07728129B2
1-Isopropyl piperazine dihydrochloride
To a solution of tert-butyl piperazine-1-carboxylate (100 g) and acetone (48 mL) in CH2Cl2 (1 L) was added acetic acid (31 mL) and NaBH(OAc)3 (170 g). The reaction mixture was stirred for 18 h, then was diluted with 1 N NaOH (500 mL), and extracted with CH2Cl2 (500 mL×2). The combined organic layers were dried (Na2SO4) and concentrated to a residue. The residue was dissolved in MeOH (200 mL) and 4 M HCl in 1,4-dioxin (700 mL) was added to the reaction mixture over a period of several hours. After 18 h, the reaction mixture was concentrated to yield a solid, which was washed with Et2O (500 mL×2) and dried overnight to yield the title compound as a white solid.

reactant | tert-butyl piperazine-1-carboxylate | 100 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | acetone | 48 mL | CC(=O)C | C3H6O
reactant | acetic acid | 31 mL | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 170 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | CH2Cl2 | 1 L | C(Cl)Cl | CH2Cl2
solvent | NaOH | 1 N, 500 mL | [OH-].[Na+]
product | 1-Isopropyl piperazine dihydrochloride | Cl.Cl.C(C)(C)N1CCNCC1 | InChI=1S/C7H16N2.2ClH/c1-7(2)9-5-3-8-4-6-9;;/h7-8H,3-6H2,1-2H3;2*1H
